US07842688B2
f) Benzyl 4-(4-allyloxyphenyl)-3-hydroxypiperidine-1-carboxylate
Analogously to Example 10f, 29.45 g of 4-(4-allyloxyphenyl)piperidin-3-ol and 26.8 g of benzyl formate are reacted. The title compound is obtained as a white solid. Rt=4.62.

reactant | 4-(4-allyloxyphenyl)piperidin-3-ol | 29.45 g | C(C=C)OC1=CC=C(C=C1)C1C(CNCC1)O | C14H19NO2
reactant | benzyl formate | 26.8 g | C(=O)OCC1=CC=CC=C1 | C8H8O2
product | Benzyl 4-(4-allyloxyphenyl)-3-hydroxypiperidine-1-carboxylate | C(C=C)OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)O | C22H25NO4
